US08030438B2
(4) Synthesis of 3,3′-bis(dibutoxyphosphoryl)-[2,2′]-bithiophene
At room temperature, 0.8045 g (2.00 mmols) of 3-(dibutoxyphosphoryl)-2-iodothiophene and 1.1308 g (2.00 mmols) of 2-(tributylstannyl)-3-(dibutoxyphosphoryl)thiophene were dissolved in DMF, to which 0.2376 g (2.40 mmols) of commercially available copper(I) chloride was added at room temperature. Thereafter, the reaction mixture was heated to 80° C. and stirred for 10 hours. After the reaction, the reaction mixture was cooled down to room temperature, to which a 10% hydrochloric acid aqueous solution, followed by extraction of the resulting product with ethyl acetate. The organic phase was washed with a saturated saline solution and dried over anhydrous sodium sulfate. The solvent was removed by distilling off under reduced pressure, and the resulting crude product was purified with a silica gel column (gradiated from ethyl acetate:hexane=1:1 with acetone) to obtain the specified substance in the form of white crystals at a yield of 1.6012 g (yield: 55%).

reactant | 3-(dibutoxyphosphoryl)-2-iodothiophene | 2.00 mmols, 0.8045 g | C(CCC)OP(=O)(OCCCC)C1=C(SC=C1)I | C12H20IO3PS
reactant | 2-(tributylstannyl)-3-(dibutoxyphosphoryl)thiophene | 2.00 mmols, 1.1308 g | C(CCC)[Sn](C=1SC=CC1P(=O)(OCCCC)OCCCC)(CCCC)CCCC
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
solvent | copper(I) chloride | [Cu]Cl
product | 3,3′-bis(dibutoxyphosphoryl)-[2,2′]-bithiophene | yield: 55% | C(CCC)OP(=O)(OCCCC)C1=C(SC=C1)C=1SC=CC1P(=O)(OCCCC)OCCCC | C24H40O6P2S2
